US08119663B2
4-({3-(3-Methylsulphonylmethyl-1,2,4-oxadiazol-5-yl)-5-[4-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)morpholine [racemic cis isomer]
250 mg (about 0.65 mmol) of 1-(morpholin-4-ylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylic acid and 108 mg (0.71 mmol) of N′-hydroxy-2-(methylsulphonyl)ethanimidamide were reacted according to the General Method 1. Yield: 5 mg (2% of theory)

reactant | 1-(morpholin-4-ylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylic acid | about 0.65 mmol, 250 mg | N1(CCOCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C18H21F3N2O4
reactant | N′-hydroxy-2-(methylsulphonyl)ethanimidamide | 0.71 mmol, 108 mg | ON=C(CS(=O)(=O)C)N | C3H8N2O3S
product | 4-({3-(3-Methylsulphonylmethyl-1,2,4-oxadiazol-5-yl)-5-[4-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)morpholine | CS(=O)(=O)CC1=NOC(=N1)C1CN(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N1CCOCC1 | C21H25F3N4O5S
